US06451810B1
Triethylamine (1 eq.) was added to a suspension of 4-chloro-3-nitroquinoline hydrochloride (13 g, 53 mmol) in chloroform. A suspension of N-(5-aminopentyl)benzamide (11 g, 53 mmol) in chloroform was added and the reaction mixture was heated to reflux. Progress of the reaction was monitored by HPLC. The reaction mixture was concentrated under vacuum. The residue was diluted with toluene, heated to reflux and then filtered while still hot. The filtrate was allowed to cool. The resulting precipitate was isolated by filtration to provide 16.9 g of N1-{5-[(3-nitroquinolin-4-yl)amino]pentyl}benzamide as a yellow solid, m.p. 130-132° C. 1H NMR (500 MHz, DMSO-d6) δ9.07 (s, 1H), 9.02 (broad s, 1H), 8.53 (d, J=8.0 Hz, 1H), 8.43 (t, J=6.0 Hz, 1H), 7.89 (dd, J=8.0, 1.2 Hz, 1H), 7.83 (dt, J=8.0, 1.2 Hz, 1H), 7.80 (d, J=8.0 Hz, 2H), 7.57 (dt, J=8.0, 1.2 Hz, 1H), 7.50 (t, J=8.0 Hz, 1H), 7.43 (t, J=8.0 Hz, 2H), 3.63 (q, J=6.0 Hz, 2H), 3.25 (q, J=6.0 Hz, 2H), 1.77 (quintet, J=7.0 Hz, 2H), 1.55 (quintet, J=7.0 Hz, 2H), 1.39 (quintet, J=7.0 Hz, 2H).

reactant | Triethylamine | 1 eq. | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-nitroquinoline hydrochloride | 53 mmol, 13 g | Cl.ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-]
reactant | N-(5-aminopentyl)benzamide | 53 mmol, 11 g | NCCCCCNC(C1=CC=CC=C1)=O | C12H18N2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N1-{5-[(3-nitroquinolin-4-yl)amino]pentyl}benzamide | 16.9 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCCNC(C1=CC=CC=C1)=O | C21H22N4O3
